US05173496
Using a similar procedure to that described in Example 34, but starting from N-benzyl-4-butoxy-2-nitrobenzamide [obtained as an oil of satisfactory purity by heating a mixture containing 4-hydroxy-2-nitrobenzoic acid (J.Chem.Soc., 1949, 1502), butyl iodide, potassium carbonate and N,N-dimethylformamide; hydrolysing a solution of the ester in ethanol with aqueous sodium hydroxide and coupling the resultant acid with benzylamine using the conditions described for the preparation of starting materials in Example 1], using a mixture of ethanol and water (3/1 v/v) as solvent and heating the reaction for 8 hours there was obtained 1,2-dihydro-2-benzyl-6-butoxy-3H-indazol-3-one as a solid, m.p. 148-149° C., in 27% yield.

reactant | N-benzyl-4-butoxy-2-nitrobenzamide | C(C1=CC=CC=C1)NC(C1=C(C=C(C=C1)OCCCC)[N+](=O)[O-])=O | C18H20N2O4
reactant | 4-hydroxy-2-nitrobenzoic acid | OC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
reactant | butyl iodide | C(CCC)I | C4H9I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1,2-dihydro-2-benzyl-6-butoxy-3H-indazol-3-one | 27% yield | C(C1=CC=CC=C1)N1NC2=CC(=CC=C2C1=O)OCCCC | C18H20N2O2
